US05719148
A. ETHYL α-METHYL-3-PYRIDYLACETIC ACID
To ethyl 3-pyridylacetic acid (10.86 grams) (65.7 mmoles) was added a 2.0M solution of lithium diisopropylamide in THF/heptane/ethyl benzene (32.87 ml.) (65.8 mmoles) at -30° C. The semi-solid mixture was agitated and sonicated for 1 hour. The mixture was allowed to remain at 25° C. for 1 hour, whereupon methyl iodide (4.09 ml.) (65.7 mmoles) was added. After 1 hour at 25° C. the mixture was taken up in CH2 Cl2 and washed with saturated aqueous sodium bicarbonate and water. The CH2Cl2 was dried (magnesium sulphate), filtered and evaporated to dryness. The residue was chromatographed on silica gel using 10% EtOAc in hexane as the eluant to give the title compound (Yield: 3.48 grams, 30%, MH+ 180).

reactant | ethyl 3-pyridylacetic acid | 65.7 mmoles, 10.86 grams | C(C)C(C(=O)O)C=1C=NC=CC1 | C9H11NO2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | THF heptane ethyl benzene | 65.8 mmoles, 32.87 ml | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
reactant | methyl iodide | 65.7 mmoles, 4.09 ml | CI | CH3I
reactant | Cl2 | ClCl | Cl2
product | ETHYL α-METHYL-3-PYRIDYLACETIC ACID | Yield: 3.48 grams, 30% | C(C)C(C(=O)O)(C)C=1C=NC=CC1 | C10H13NO2
